US03994932
122 Grams of 5-nitro-1,4-naphthoquinone which contained 10% of the 6-nitro compound, 2800 grams of methyl cellosolve and 48 grams of 1,3-butadiene were charged into an autoclave and reacted at 90° C. for 2 hours. The reaction solution was allowed to stand for cooling and 1.2 grams of a 5% palladium on carbon catalyst was added thereto. Thereafter, the procedure of Example 4 was repeated to obtain 104 grams of 1-aminoanthraquinone containing therein 7% of 2-aminoanthraquinone.

reactant | 5-nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
reactant | 1,3-butadiene | 48 grams | C=CC=C | C4H6
catalyst | palladium on carbon | [Pd] | Pd
solvent | methyl cellosolve | 2800 grams | COCCO | C3H8O2
product | 1-aminoanthraquinone | 104 grams | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
